US07304062B2
Step G: 2-Methyl-2-(4-(2-[5-oxo-4-propyl-1-(4-trifluoromethyl-phenyl)-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-ethyl}-phenoxy)-propionic acid
2-Methyl-2-(4-{2-[5-oxo-4-propyl-1-(4-trifluoromethyl-phenyl)-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-ethyl}-phenoxy)-propionic acid ethyl ester (94 mg, 0.19 mmol) and a 2N solution of sodium hydroxide (2.3 mL) in ethanol (5 mL) was heated to 80° C. for 35 min. The solvent was evaporated, water added and the solution made acidic with concentrated hydrochloric acid (pH 0-1), extracted with ether. The combined organic extracts were washed with water, brine, dried and evaporated to dryness to afford the pure compound (82 mg, 92.3%): 1HNMR (400 MHz, CDCl3) δ 8.06 (d, 2H, J=8.3 Hz), 7.59 (d, 2H, J=8.3 Hz), 7.09 (d, 2H, 6.4 Hz), 6.83 (d, 2H, J=8.3 Hz), 3.45 (t, 2H, J=7.4 Hz), 3.02 (d, 2 H, J=7.3 Hz), 2.79 (m, 2H), 1.60 (m, 2H), 1.52 (s, 6H), 0.87 (t, 3H, J=7.8 Hz); ESMS m/z (relative intensity) 476.1 (M−H+, 50).

reactant | 2-Methyl-2-(4-{2-[5-oxo-4-propyl-1-(4-trifluoromethyl-phenyl)-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-ethyl}-phenoxy)-propionic acid ethyl ester | 0.19 mmol, 94 mg | C(C)OC(C(C)(OC1=CC=C(C=C1)CCC1=NN(C(N1CCC)=O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H30F3N3O4
reactant | sodium hydroxide | 2.3 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-Methyl-2-(4-(2-[5-oxo-4-propyl-1-(4-trifluoromethyl-phenyl)-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-ethyl}-phenoxy)-propionic acid | 82 mg, 92.3% | CC(C(=O)O)(C)OC1=CC=C(C=C1)CCC1=NN(C(N1CCC)=O)C1=CC=C(C=C1)C(F)(F)F | C24H26F3N3O4
